US06265575B1
Part B. 4-[1-[2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl]ethenyl]phenol
By essentially following the procedure detailed in Example 5, Part B, the title compound was prepared from methyl 4-[1-[2-(4-methoxyphenyl)benzo[b]thiophen-3-yl]ethenyl]phenyl ether (Part A) in 67% yield as a yellow solid following radial chromatography (SiO2; gradient of 20-40% EtOAc in hexanes).

reactant | methyl 4-[1-[2-(4-methoxyphenyl)benzo[b]thiophen-3-yl]ethenyl]phenyl ether | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=C)C2=CC=C(C=C2)OC | C24H20O2S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[1-[2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl]ethenyl]phenol | 67% yield | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=C)C2=CC=C(C=C2)O | C22H16O2S
